US07465730B2
Utilizing the general procedure outlined in Example 65, 1-[4-acetyl-1-(2,4dihydroxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone prepared as in Example 70 (12 mg, 0.4 mmol) reacted with bromoethane (30 μL, excess), in the presence of K2CO3 (10 mg), to afford 1-[4-acetyl-1-(2,4-diethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone: MS (ESI) 344 (M+H)+. Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(2,4-diethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (4 mg) and hydrazine (5 μL) reacted to give 6-(2,4-diethoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as off-white solid: 1H NMR (CDCl3, 500 MHz) δ 7.03 (d, 1H), 6.67 (s, 1H), 6.64 (d, 1H), 4.15 (q, 1H), 4.04 (q, 1H), 2.89 (br s, 6H), 2.43 (s, 6H), 1.49 (t, 3H, 1.26 (t, 3H); MS (ESI) 340 (M+H)+.

reactant | 1-[4-acetyl-1-(2,4-diethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 4 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OCC)OCC)C)C(C)=O | C20H25NO4
reactant | hydrazine | 5 μL | NN | H4N2
product | 6-(2,4-diethoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | C(C)OC1=C(C=CC(=C1)OCC)N1C(=C2C(=NN=C(C2=C1C)C)C)C | C20H25N3O2
